US08252792B2
(S)-4-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-2-isopropyl-piperazine-1-carboxylic acid tert-butyl ester
Prepared using the method used in the preparation of 2-[4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperazin-1-yl]-N,N-dimethyl-isobutyramide using (S)-2-isopropyl-piperazine-1-carboxylic acid tert-butyl ester in place of N,N-dimethyl-2-piperazin-1-yl-isobutyramide. The title compound was obtained as an off-white solid (182 mg, 80%).

reactant | 2-[4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperazin-1-yl]-N,N-dimethyl-isobutyramide | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C(C(=O)N(C)C)(C)C)N2CCOCC2 | C21H31ClN6O2S
reactant | (S)-2-isopropyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)C(C)C | C12H24N2O2
product | (S)-4-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-2-isopropyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl)C(C)C | C23H34ClN5O3S
